US08703953B2
To a stirred solution of 2-((2S)-1-(5-ethyl-5H-chromeno[3,4-c]pyridin-8-yloxy)-4-methylpentan-2-yl)isoindoline-1,3-dione (0.25 g, 0.548 mmol) in ethanol (15 mL) was added hydrazine (0.172 mL, 5.48 mmol) and the reaction mixture was stirred at 40° C. for 6 h. The reaction was cooled to room temperature then diluted with DCM (20 mL) and filtered through a bed of celite. The filtrate was concentrated under reduced pressure and purified by preparative HPLC (0.1% TFA in water and methanol) to yield (2S)-1-((5-ethyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine (40 mg, 21% yield). The diastereomeric mixture was resolved by SFC (0.5% DEA in methanol).

reactant | 2-((2S)-1-(5-ethyl-5H-chromeno[3,4-c]pyridin-8-yloxy)-4-methylpentan-2-yl)isoindoline-1,3-dione | 0.548 mmol, 0.25 g | C(C)C1OC=2C=C(C=CC2C=2C1=CN=CC2)OC[C@H](CC(C)C)N2C(C1=CC=CC=C1C2=O)=O | C28H28N2O4
reactant | hydrazine | 5.48 mmol, 0.172 mL | NN | H4N2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-((5-ethyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)-4-methylpentan-2-amine | 40 mg, 21% yield | C(C)C1OC=2C=C(C=CC2C=2C1=CN=CC2)OC[C@H](CC(C)C)N | C20H26N2O2
